US07625903B2
Pd/C (10%, 420 mg) was added to a solution of 1-methyl-4-(3-nitrophenyl)piperazine (8.4 g) in methanol (500 mL) and water (20 mL). The reaction mixture was stirred and degassed with nitrogen, and the vessel was charged with H2 gas at atmospheric pressure. The reaction was allowed to proceed overnight after which time the Pd/C was removed by filtration over celite and the methanol and water were removed in vacuo to give 1-(3-aminophenyl)-4-methyl-2-piperazinone as a yellow solid (7.08 g, 95% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.07 (1H, t, J=7.83 Hz) 6.48-6.55 (2H, m) 6.46 (1H, d, J=1.01 Hz) 6.44 (1H, s) 3.88 (4H, s) 3.54 (2H, br. s.) 2.82 (3H, s)

reactant | 1-methyl-4-(3-nitrophenyl)piperazine | 8.4 g | CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O2
reactant | methanol | 500 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
catalyst | Pd/C | 420 mg | [Pd] | Pd
product | 1-(3-aminophenyl)-4-methyl-2-piperazinone | 7.08 g, 95% yield | NC=1C=C(C=CC1)N1C(CN(CC1)C)=O | C11H15N3O
